data/rdb19/train.csv
rxn,smiles,ea
5206,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1([H:35])[C:6]([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])[H:36])([H:32])([H:33])[H:34],43.07551625871565
1212,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:20]1([H:28])[C:19]([H:27])=[C:18]([H:26])[C:17]([H:25])=[C:16]([C:15](=[C:14]([H:22])[H:23])[H:24])[C:21]1[H:29])([H:11])[H:12])([H:8])([H:9])[H:10],21.390513582271524
528,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([N:9]([C:10](=[O:11])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:1]([O:2][O:3][C:8]([C:7]([H:12])[H:13])([N:9]([C:10](=[O:11])[H:16])[H:15])[H:14])([H:4])([H:5])[H:6],23.73894695687341
3386,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],16.56020044873003
4362,[C:16]([C:17]([C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[H:28],86.23813280713512
868,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:21]([C:20]([C:19]([H:25])([H:26])[H:27])([H:28])[H:29])([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],64.76406732754549
5333,[C:17]([C:18]([C:19]([H:20])[H:21])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1[C:4]([H:12])([C:19]([C:18]([C:17]([H:28])([H:29])[H:30])([c:22]2[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]2[H:36])[H:31])([H:20])[H:21])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],18.248988562787417
1660,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([H:25])([H:26])[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],58.270895401597954
4598,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],65.20444150757976
4440,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])=[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5])([O:6][H:12])[H:23])([H:7])([H:8])[H:9],42.81578492448898
1260,[C:14]([C:15](=[O:16])[O:17][C:18](=[C:19]([H:24])[H:25])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:19]([C:18]([O:17][C:15]([C:14]([H:20])([H:21])[H:22])=[O:16])[H:23])([H:24])[H:25],32.79156570869964
